* PSpice Model
*$
*PART NUMBER:CONN_2x13
*2x13 Connector Header
*Version:1
********************************************
.SUBCKT CONN_2x13 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 25 26

X1 1 2 3 conn_2x13_endpin
X2 2 1 3 conn_2x13_endpin
X3 3 1 4 5 conn_2x13_pin
X4 4 2 3 6 conn_2x13_pin
X5 5 3 6 7 conn_2x13_pin
X6 6 4 5 8 conn_2x13_pin
X7 7 5 8 9 conn_2x13_pin
X8 8 6 7 10 conn_2x13_pin
X9 9 7 10 11 conn_2x13_pin
X10 10 8 9 12 conn_2x13_pin
X11 11 9 12 13 conn_2x13_pin
X12 12 10 11 14 conn_2x13_pin
X13 13 11 14 15 conn_2x13_pin
X14 14 12 13 16 conn_2x13_pin
X15 15 13 16 17 conn_2x13_pin
X16 16 14 15 18 conn_2x13_pin
X17 17 15 18 19 conn_2x13_pin
X18 18 16 17 20 conn_2x13_pin
X19 19 17 20 21 conn_2x13_pin
X20 20 18 19 22 conn_2x13_pin
X21 21 19 22 23 conn_2x13_pin
X22 22 20 21 24 conn_2x13_pin
X23 23 21 24 25 conn_2x13_pin
X24 24 22 23 26 conn_2x13_pin
X25 25 23 26 conn_2x13_endpin
X26 26 24 25 conn_2x13_endpin

.ENDS CONN_2x13

* 2X13 Connector Input Pin Parasitics
*
*   o o o o 3 o o o o
*   o o o 4 1 2 o o o
*
* Connections
*	1 = Pin 1   2 = Pin 2   3 = Pin 3   4 = Pin 4
.subckt conn_2x13_pin 1 2 3 4

R1 1 2 1G
C1 1 2 0.1P
R2 1 3 1G
C2 1 3 0.1P
R3 1 4 1G
C3 1 4 0.1P

.ends conn_2x13_pin

* 2X13 Connector Input End Pin Parasitics
*
*   o o o o o o o o 2
*   o o o o o o o 3 1
*
* Connections
*	1 = Pin 1   2 = Pin 2   3 = Pin 3   4 = Pin 4
.subckt conn_2x13_endpin 1 2 3

R1 1 2 1G
C1 1 2 0.1P
R2 1 3 1G
C2 1 3 0.1P

.ends conn_2x13_endpin
*$
